data/mechanisms/records/IMS8-EQ8.30a.json
{"mechanism_id": "IMS8-EQ8.30a", "species": [{"species_id": "protonated_ethoxy_bicycloketone", "mapped_smiles": "[OH+:2]=[C:1]1[CH2:11][CH2:10][CH:9]2[CH2:8][CH:4]([O:5][CH2:6][CH3:7])[CH:3]12", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ring_opened_oxocarbenium_enol", "mapped_smiles": "[OH:2][C:1]1=[CH:3][CH:9]([CH2:8][CH:4]=[O+:5][CH2:6][CH3:7])[CH2:10][CH2:11]1", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_cyclopentenone", "mapped_smiles": "[OH+:2]=[C:1]1[CH:3]=[CH:9][CH2:10][CH2:11]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_vinyl_ether", "mapped_smiles": "[CH2:8]=[CH:4][O:5][CH2:6][CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_ethoxy_bicycloketone"]}, {"state_id": "state_intermediate", "species_ids": ["ring_opened_oxocarbenium_enol"]}, {"state_id": "state_products", "species_ids": ["protonated_cyclopentenone", "ethyl_vinyl_ether"]}], "steps": [{"step_id": "step_ring_opening", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "ring_opening_fragmentation", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [1, 3]}, "electron_count": 2}, {"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_retro_ene_elimination", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "retro_ene_elimination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [3, 9]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [4, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_ringopen", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 159, "equation": "8.30", "figure": null, "panel": "a", "section": "8.3 Steric factors"}, "confidence": 0.7, "curator_note": "MH+ of 7-ethoxybicyclo[3.2.0]heptan-2-one, protonated on the ketone (arrow label 'i'). Grob/retro-[2+2]-type ring opening of the cyclobutane: the C3-C4 bond (fusion carbon to ethoxy carbon) cleaves as the ring C1=C3 enol double bond forms and the ethoxy oxygen O5 lone pair closes the C4=O5+ oxocarbenium, relaying the charge from the ketone O2 to the ether O5. ARC COUNT (zoomed re-read): the book draws 2 arc(s): arc 1 = carbonyl pi (C1=O2) collapsing onto O2 (neutralising the protonated ketone to the enol OH) = move 1; arc 2 = the cyclobutane C3-C4 sigma bond forming the new ring C1=C3 double bond (arrowhead at the carbonyl carbon C1) = move 2. Move 3 (the ethoxy O5 lone pair forming C4=O5+ oxocarbenium) is an IMPLICIT hook required for electron balance -- it is NOT drawn on the page (the region around the ethoxy carbon C4 shows only a bold/hashed stereo wedge, no curved arrow). The H's on the fusion carbons are stereochemistry labels, not migrating: no atom changes its H count in this step. Scheme (b) is the trans/exo ring-fusion diastereomer of (a); with stereochemistry omitted it has identical connectivity and opens to the same intermediate, so it is not encoded as a separate record."}, {"evidence_id": "ev_step_retroene", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_ene_elimination", "support_type": "textbook_proposed", "locator": {"page": 159, "equation": "8.30", "figure": null, "panel": null, "section": "8.3 Steric factors"}, "confidence": 0.75, "curator_note": "Second 'i' step: the ring-opened oxocarbenium enol expels ethyl vinyl ether and reforms protonated cyclopent-2-enone (drawn 100%). A 4-arrow retro-ene/retro-Michael cascade: enol O2 lone pair -> C1=O2+ (reform protonated carbonyl); C1=C3 pi -> C3=C9 (new conjugated ring C=C); C9-C8 sigma -> C8=C4 (forms the vinyl ether C=C, cleaving C8-C9 to release the neutral); C4=O5+ pi -> O5 lone pair (neutralises the oxocarbenium to the ether oxygen). Book draws all 4 arcs in the central intermediate (arc at HO->C1, arc within the ring C=C toward C9, arc from the C9-C8 chain toward the oxocarbenium, and the small arc at =O5+-Et). No implicit hooks."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 155.1067, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_protonated_cyclopentenone_83", "species_id": "protonated_cyclopentenone", "step_id": "step_retro_ene_elimination", "observed_mz": 83.0491, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
